data/mechanism_extracts/EurJOC/10.1002_ejoc.202500634.json
{"doi": "10.1002_ejoc.202500634", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical tandem trifluoromethylation/cyclization of N-(but-3-en-1-yl)anilines with Togni's reagent II to give 4-(trifluoromethylmethyl)-1,2,3,4-tetrahydroquinolines", "mechanism_family": ["radical_cathodic", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction of Togni's reagent II (facilitated by TFA, shifting reduction from -2.73 V to -1.65 V vs SCE) generates a CF3 radical; subsequent anodic oxidation of a cyclohexadienyl-type radical intermediate closes the catalytic cycle", "key_intermediates": [{"name": "CF3 radical generated by cathodic reduction of Togni's reagent II", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered radical I from CF3 addition to terminal alkene of N-(but-3-en-1-yl)aniline", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl radical II from intramolecular radical cyclization onto the arene", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl cation III after anodic oxidation of II, prior to rearomatizing deprotonation", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces TFA-activated Togni's reagent II to release a CF3 radical, which adds to the alkene of the aniline substrate to give C-radical I; intramolecular radical addition onto the arene gives cyclohexadienyl radical II, which is oxidized at the anode to cation III and deprotonated to rearomatize, affording the tetrahydroquinoline product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; no product 3a formed, indicating radical pathway"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction completely inhibited; supports radical intermediates"}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction completely inhibited, consistent with radical intermediate"}, {"name": "no-current control", "smiles": null, "purpose": "other", "observation": "No product formed without applied current; confirms electrochemistry is essential"}, {"name": "Cyclic voltammetry of 1a, 2a, TFA and mixtures", "smiles": null, "purpose": "redox_probe", "observation": "1a and TFA show no reduction peak; 2a reduces at -2.73 V vs SCE; 2a+TFA shows new reduction peak at -1.65 V vs SCE, showing TFA facilitates cathodic reduction of Togni's reagent II"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "TFA plays a critical role by protonating/activating Togni's reagent II, lowering its reduction potential by ~1 V and enabling efficient cathodic CF3 radical generation under mild conditions. Mechanism is supported by radical trapping, current on/off, and CV but no DFT or KIE was reported."}
